US07691877B2
2-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-ethanol
(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-acetaldehyde (250 mg, 0.66 mmol) was stirred in 15 ml dichloromethane. Sodium borohydride (38 mg, 0.99 mmol) was added and the solution stirred at ambient temperature overnight. The reaction mixture was partitioned between DCM and water, the organics dried over magnesium sulphate and concentrated to give a crude solid which was purified by column chromatography on silica, eluting with pentane:EtOAc, 4:1 to 1:1 to afford the title compound as a yellow solid, (134 mg, 53%).

reactant | (4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-acetaldehyde | 0.66 mmol, 250 mg | C(C1=CC=CC=C1)NC1=CC(=NC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)CC=O | C21H20N4O3
reactant | Sodium borohydride | 0.99 mmol, 38 mg | [BH4-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-ethanol | 134 mg, 53% | C(C1=CC=CC=C1)NC1=CC(=NC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)CCO | C21H22N4O3
